US04271032
Preparation of Citric Acid Dodecyl Ester
A blend of citric acid (63 grams, 0.3 mole), dodecyl alcohol (55.8 grams, 0.31 mole), p-toluene sulfonic acid (0.1 gram, 0.6 mole) and 300 ml. of dioxane was refluxed for 72 hours, passing the condensed vapor through 4A molecular sieve. The dioxane solvent was then evaporated under reduced pressure (30 mm.) to a 150 gram residue. This mixture was diluted with 200 ml. of toluene and the reaction mixture subsequently stripped to 60° C. at 5 mm. pressure. The residue was an amber oil which solidified to a cream colored soft solid, weight 106.6 grams (Theory 108 grams).

reactant | citric acid | 0.3 mole, 63 grams | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | dodecyl alcohol | 0.31 mole, 55.8 grams | C(CCCCCCCCCCC)O | C12H26O
reactant | p-toluene sulfonic acid | 0.6 mole, 0.1 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Citric Acid Dodecyl Ester | C(CCCCCCCCCCC)OC(CC(O)(C(=O)O)CC(=O)O)=O | C18H32O7
